US06300325B1
b) Preparation of 4-amino-2-trifluoromethylbenzimidazole
To a solution of 4-nitro-2-trifluoromethylbenzimidazole (700 mg, 3.0 mmol) in methanol(50 ml)and was added 10% Pd/C (200 mg). The mixture was flushed with argon, then hydrogen was bubbled through the solution for 10 min. and a hydrogen atmosphere was maintained at balloon pressure overnight. The mixture was filtered through celite and the celite was washed with methanol. The solvent was evaporated and chromatography of the resulting solid on silica gel (10%MeOH/CH2Cl2) gave the desired product (560 mg, 93%). 1H NMR (CD3SO2CD3): δ10.49 (s, 1H), 7.09 (t, 1H), 6.72 (d, 1H), 6.30 (d, 1H), 5.52 (bs, 2H).

reactant | 4-nitro-2-trifluoromethylbenzimidazole | 3.0 mmol, 700 mg | [N+](=O)([O-])C1=CC=CC=2N=C(NC21)C(F)(F)F | C8H4F3N3O2
solvent | methanol | 50 ml | CO | CH4O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 4-amino-2-trifluoromethylbenzimidazole | 560 mg, 93% | NC1=CC=CC=2N=C(NC21)C(F)(F)F | C8H6F3N3
